US07030139B2
40A: N,N-Diethyl-3-fluoro-4-nitro-benzamide
3-Fluoro-4-nitrobenzoic acid (5.0 g, 27.0 mmol) was refluxed in a mixture of 2:1 CH2Cl2/SOCl2 (150 mL) overnight. The solvent was concentrated and the residue dissolved in CH2Cl2 (50 mL). Another CH2Cl2 solution (50 mL) of diethylamine (3.35 mL, 1.2 eq) and triethylamine (7.5 mL, 2 eq) was then added dropwise to the cold stirring solution (0° C.) of the acid chloride. The solution was stirred at rt for 1 h. The solution was then washed with 5% KHSO4 solution, saturated NaHCO3 solution, brine and dried over anhydrous MgSO4. The crude product was purified by flash chromatography using 2:1/hex:EtOAc on silica gel to afford the title compound (5.10 g, 79% yield); 1H NMR (400 MHz, CDCl3) δ 8.12 (m, 1H), 7.29 (m, 2H), 3.56 (br d, 2H), 3.23 (br d, 2H), 1.27 (br s, 3H), 1.15 (br s, 3H).

reactant | 3-Fluoro-4-nitrobenzoic acid | 27.0 mmol, 5.0 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | CH2Cl2 SOCl2 | 150 mL | C(Cl)Cl.O=S(Cl)Cl
reactant | diethylamine | 3.35 mL, 1.2 eq | C(C)NCC | C4H11N
reactant | triethylamine | 7.5 mL, 2 eq | C(C)N(CC)CC | C6H15N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N,N-Diethyl-3-fluoro-4-nitro-benzamide | 5.10 g, 79% yield | C(C)N(C(C1=CC(=C(C=C1)[N+](=O)[O-])F)=O)CC | C11H13FN2O3
